US04016148
24.65 g of dimethyl (L-alanylamino)-methylphosphonate hydrochloride and 32.0 g of the N-hydroxysuccinimide ester of N-benzyloxycarbonyl-L-alanine were stirred in 200 ml of dry dimethylformamide while 14 ml of dry triethylamine were added dropwise at 20° C. The mixture was stirred overnight and then the triethylamine hydrochloride filtered off and washed with a small amount of dimethylformamide. The filtrate was evaporated under an oil-pump vacuum, the residue treated with 150 ml of water and then extracted with four 125 ml portions of chloroform. The combined chloroform layers were washed with a 20 % potassium carbonate solution, separated and dried over sodium sulphate. The sodium sulphate was filtered off, the filtrate evaporated firstly under a water-pump vacuum and then under an oil-pump vacuum and the residue taken up in 100 ml of ethyl acetate. About 100 ml of ether were added to faint turbidity when crystallization began. After refrigeration overnight, the solid was filtered off, washed successively with ethyl acetate/ether (1:1) and ether and then dried in vacuo. Recrystallization from 200 ml of boiling ethyl acetate by the addition of 200 ml of ether gave 27.8 g of dimethyl [(N-benzyloxycarbonyl-L-alanyl-L-alanyl)amino] -methylphosphonate of melting point 106°-108° C; [α]D20 =- 37.4° (c =1% in glacial acetic acid).

reactant | dimethyl (L-alanylamino)-methylphosphonate hydrochloride | 24.65 g | Cl.N[C@@H](C)C(=O)NCP(OC)(OC)=O
reactant | N-benzyloxycarbonyl-L-alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | dimethyl [(N-benzyloxycarbonyl-L-alanyl-L-alanyl)amino] -methylphosphonate | 27.8 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NCP(OC)(OC)=O | C17H26N3O7P
